US04572913
3-t-Butylaniline hydrochloride (5 g) in concentrated hydrochloric acid (8 ml) was stirred at 0° whilst a solution of sodium nitrite (1.86 g) in water (2.4 ml) was slowly added. The mixture was kept at 0° for 1 hour and, after filtering (at 0°), it was treated dropwise with a solution of stannous chloride dihydrate (18.2 g) in concentrated hydrochloric acid (18.8 ml). A pink-coloured solid separated. After 1 hour, this solid was filtered off and washed with saturated aqueous sodium chloride. The resulting salt was converted into base in the usual way to give 3-t-butylphenylhydrazine, b.p. 88°-90°/0.25 mm Hg.

reactant | 3-t-Butylaniline hydrochloride | 5 g | Cl.C(C)(C)(C)C=1C=C(N)C=CC1
reactant | sodium nitrite | 1.86 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 8 ml | Cl | ClH
solvent | water | 2.4 ml | O | H2O
product | 3-t-butylphenylhydrazine | C(C)(C)(C)C=1C=C(C=CC1)NN | C10H16N2
